US08492378B2
N-methyl-1-[5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]methylamine
A mixture of 2-(chloromethyl)-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole (0.30 g, 0.76 mmol), potassium iodide (0.13 g, 0.76 mmol) and 2M methylamine-tetrahydrofuran solution (10 mL) was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=7/3) and recrystallized from hexane/diisopropyl ether to give the title compound (0.20 g, yield 67%) as colorless crystals.

reactant | 2-(chloromethyl)-5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | 0.76 mmol, 0.30 g | ClCC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC(=CC=C2)OC(F)(F)F)C1 | C18H10ClF3N2O3
reactant | potassium iodide | 0.76 mmol, 0.13 g | [I-].[K+]
reactant | methylamine tetrahydrofuran | 2M, 10 mL | CN.O1CCCC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methyl-1-[5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]methylamine | 0.20 g, yield 67% | CNCC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC(=CC=C2)OC(F)(F)F)C1 | C19H14F3N3O3
